US05633281
To a cooled solution (0° C.) of (S)-2-t-butoxycarbonylamino-3,3-diphenylpropan-1-ol (2.04 g, 6.2 mmol, Example 1 g) in tetrahydrofuran (50 ml) and dimethylformamide (10 ml) was added sodium hydride (0.187 g, 80% suspension in oil) over 15 minutes. After an additional 10 minutes 3,5-bis(trifluoromethyl)benzyl bromide (1.14 ml) was added and the solution stirred at room temperature for 16 h. The solvent was removed in vacuo and the residue partitioned between CH2Cl2 and water. After washing the organic phase with saturated brine and drying (MgSO4), the solvent was removed in vacuo and the residue chromatographed on silica gel in ethyl acetate/hexane (0:100 to 50:50) to give (S)-2-t-butoxycarbonylamino-1-((3.5bis(trifluoromethyl)phenyl)methyloxy)3,3-diphenylpropane, 2.92 g.

reactant | (S)-2-t-butoxycarbonylamino-3,3-diphenylpropan-1-ol | 6.2 mmol, 2.04 g | C(C)(C)(C)OC(=O)N[C@H](CO)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H25NO3
reactant | sodium hydride | 0.187 g | [H-].[Na+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 1.14 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-2-t-butoxycarbonylamino-1-((3.5bis(trifluoromethyl)phenyl)methyloxy)3,3-diphenylpropane | C(C)(C)(C)OC(=O)N[C@H](COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H29F6NO3
